2185-01-11 11:08:00 Physician Attending Progress Note
Chief Complaint: anemia/ heart failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling stronger, no SOB
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2185-1-10**] 09:58 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-1-10**] 01:35 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema,
   Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-1-11**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 65 (56 - 77) bpm
   BP: 94/64(72) {94/63(72) - 114/75(82)} mmHg
   RR: 14 (6 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.5 kg (admission): 87.6 kg
                  Total In:
                                                                  2,841 mL
                                                                    240 mL
   PO:
                                                                  1,560 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    156 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,520 mL
                                                                    375 mL
   Urine:
                                                                  1,520 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,321 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : few midinsp, No(t)
   Bronchial: , Wheezes : scattered, No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   70 K/uL
   88 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.9 mEq/L
   20 mg/dL
   105 mEq/L
   137 mEq/L
   19.8 %
   3.6 K/uL
        [image002.jpg]
                             [**2185-1-10**]  03:01 AM
                             [**2185-1-10**]  09:54 AM
                             [**2185-1-10**]  10:52 AM
                             [**2185-1-10**]  06:51 PM
                             [**2185-1-11**]  04:24 AM
   WBC
   2.7
   3.6
   3.6
   3.6
   Hct
   13.9
   20.9
   21.9
   20.9
   19.8
   Plt
   93
   85
   90
   70
   Cr
   0.9
   0.9
   Glucose
   89
   88
   Other labs: PT / PTT / INR:15.8/33.2/1.4, ALT / AST:14/29, Alk Phos / T
   Bili:45/3.8, Amylase / Lipase:66/59, Fibrinogen:156 mg/dL, Albumin:3.4
   g/dL, LDH:3536 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 ANEMIA, CHRONIC - Macrocytic
 ANXIETY
   B12 def
   Hypothyroid
   Has begun to respond to B12 and thyroid replacement. Appreciate input
   of Hematology and Endocrinology.  She has also been started on folate
   and will likely need iron supplementation.  Echo difficult but no
   obvious systolic dysfxn so fluid overload likely was high output state
   from profound anemia.
   ICU Care
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2185-1-10**] 10:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2185-01-12 12:23:00 Physician Attending Progress Note
Chief Complaint: Anemia, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling much better
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-1-11**] 01:38 PM
   Heparin Sodium (Prophylaxis) - [**2185-1-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-1-12**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**87**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 50 (50 - 77) bpm
   BP: 110/61(76) {110/61(72) - 117/86(92)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.5 kg (admission): 87.6 kg
                  Total In:
                                                                    960 mL
                                                                    120 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    550 mL
   Urine:
                                                                  1,225 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -265 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   74 K/uL
   82 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   17 mg/dL
   108 mEq/L
   141 mEq/L
   20.2 %
   3.6 K/uL
        [image002.jpg]
                             [**2185-1-10**]  03:01 AM
                             [**2185-1-10**]  09:54 AM
                             [**2185-1-10**]  10:52 AM
                             [**2185-1-10**]  06:51 PM
                             [**2185-1-11**]  04:24 AM
                             [**2185-1-12**]  05:10 AM
   WBC
   2.7
   3.6
   3.6
   3.6
   3.6
   Hct
   13.9
   20.9
   21.9
   20.9
   19.8
   20.2
   Plt
   93
   85
   90
   70
   74
   Cr
   0.9
   0.9
   0.8
   Glucose
   89
   88
   82
   Other labs: PT / PTT / INR:15.8/33.2/1.4, ALT / AST:14/29, Alk Phos / T
   Bili:45/3.8, Amylase / Lipase:66/59, Fibrinogen:156 mg/dL, Albumin:3.4
   g/dL, LDH:3536 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 GAIT, IMPAIRED
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 ANEMIA, CHRONIC
 ANXIETY
   Feeling much better. Heme labs still have not improved dramatically but
   retic ct starting to respond. Outpt f/u arranged at [**Location (un) 78**] and in [**Hospital **]
   Clinic (Friday). Endocrine f/u in 1 mo.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2185-1-10**] 10:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 30 minutes